US06911468B2
(2) 2-(4-Benzyloxyphenyl)-1-(4-dodecyloxyphenethyl)-5-methyl-1H-pyrrole
A solution of 4-{2-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]ethyl}phenol (1.50 g, 3.91 mmol), 1-bromododecane (1.41 ml, 5.87 mmol) and potassium carbonate (811 mg, 5.87 mmol) in DMF (15 ml) was stirred at 80° C. for 4 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate anhydride and solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as an oily substance. 1.28 g (yield: 59.3%)

reactant | 4-{2-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]ethyl}phenol | 3.91 mmol, 1.50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCC1=CC=C(C=C1)O | C26H25NO2
reactant | 1-bromododecane | 5.87 mmol, 1.41 ml | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium carbonate | 5.87 mmol, 811 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-(4-Benzyloxyphenyl)-1-(4-dodecyloxyphenethyl)-5-methyl-1H-pyrrole | yield: 59.3% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCC1=CC=C(C=C1)OCCCCCCCCCCCC | C38H49NO2
